US09359367B2
Step 3: 4-(4-(4-fluorophenyl)-2-methylpiperazin-1-yl)butanenitrile
To a stirred solution of 4-(2-methylpiperazin-1-yl)butanenitrile hydrochloride (1 g, 4.91 mmol) in 1,4 dioxane (25 ml) at 25° C. was added 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.306 g, 0.491 mmol), NaOtBu (1.415 g, 14.73 mmol), 1-bromo-4-fluorobenzene (0.648 ml, 5.89 mmol) and tris(dibenzyllideneacetone)dipalladium (0) [Pd2(dba)3] (0.225 g, 0.245 mmol). The resulting reaction mixture was purged with nitrogen for 10 min in sealed tube and stirred at 100° C. in seal tube for 15 h. Progress of the reaction was monitored by TLC. After completion of reaction, the reaction mixture was cooled to room temperature, filtered through a celite bed, and washed with ethyl acetate (2×20 ml). The filtrate was concentrated under reduced pressure to get crude compound. The crude compound was purified by column chromatography over silica gel (100-200 mesh) using 25% ethyl acetate in hexane as eluent to obtain title compound (0.65 g, 50.7).

reactant | 4-(2-methylpiperazin-1-yl)butanenitrile hydrochloride | 4.91 mmol, 1 g | Cl.CC1N(CCNC1)CCCC#N
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.491 mmol, 0.306 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | NaOtBu | 14.73 mmol, 1.415 g | CC(C)(C)[O-].[Na+]
reactant | 1-bromo-4-fluorobenzene | 5.89 mmol, 0.648 ml | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | 1,4 dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 4-(4-(4-fluorophenyl)-2-methylpiperazin-1-yl)butanenitrile | 0.65 g | FC1=CC=C(C=C1)N1CC(N(CC1)CCCC#N)C | C15H20FN3
